US06818640B1
To a mixture of 2-(2-isopropylphenyl)imino-1,3-thiazolidine (0.22 g), carbon disulfide (0.09 g) and N,N-dimethylformamide (2 ml) was added under ice-cooling 60% sodium hydride (0.05 g). The mixture was stirred for 30 minutes. Methyliodide (0.17 g) was added thereto. The mixture was stirred at room temperature for 2 hours. To the mixture was added water (30 ml). The mixture was extracted with diethylether (60 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give 2-(2-isopropylphenyl)imino-3-(methylthio)thiocarbonyl-1,3-thiazolidine (0.14 g, yield: 45%) as colorless oil.

reactant | 2-(2-isopropylphenyl)imino-1,3-thiazolidine | 0.22 g | C(C)(C)C1=C(C=CC=C1)N=C1SCCN1 | C12H16N2S
reactant | carbon disulfide | 0.09 g | C(=S)=S | CS2
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | Methyliodide | 0.17 g | CI | CH3I
solvent | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(2-isopropylphenyl)imino-3-(methylthio)thiocarbonyl-1,3-thiazolidine | 0.14 g, yield: 45% | C(C)(C)C1=C(C=CC=C1)N=C1SCCN1C(=S)SC | C14H18N2S3
